data/polar.json
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH3:4][CH:24]=[CH:16][CH2:25][B-:17]1([c:42]2[cH:38][c:40]([C:22]([F:27])([F:28])[F:29])[cH:7][c:41]([C:23]([F:30])([F:31])[F:32])[cH:39]2)[O:34][C:8]([CH3:10])([CH3:11])[C:9]([CH3:12])([CH3:13])[O:35]1.[c:1]12[c:5]([cH:20][cH:18][cH:36][cH:14]1)-[c:6]1[c:2]([cH:15][cH:37][cH:19][cH:21]1)[N+:33]2=[CH:3][CH3:26]>>[c:1]12[c:5]([c:6]3[c:2]([cH:15][cH:37][cH:19][cH:21]3)[n:33]1[CH:3]([CH:24]([CH3:4])[CH+:16][CH2:25][B-:17]1([c:42]3[cH:38][c:40]([C:22]([F:27])([F:28])[F:29])[cH:7][c:41]([C:23]([F:30])([F:31])[F:32])[cH:39]3)[O:34][C:8]([CH3:10])([CH3:11])[C:9]([CH3:12])([CH3:13])[O:35]1)[CH3:26])[cH:20][cH:18][cH:36][cH:14]2", "epd": [["Pi-/Sigma+", [24, 16], [24, 3]], ["Pi-/LP+", [3, 33], [33]]]}
{"reaction_name": "TiCl4 carbonyl activation", "rsmi": "[Cl:1][Ti:5]([Cl:2])([Cl:3])[Cl:4].[O:6]=[CH:8][CH3:7]>>[Cl:1][Ti-:5]([Cl:2])([Cl:3])([Cl:4])[O+:6]=[CH:8][CH3:7]", "epd": [["LP-/Sigma+", [6], [5, 6]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:2]=[S:17](=[O:3])([N:16]([S:10][C:6]([F:7])([F:8])[F:9])[S:18](=[O:4])(=[O:5])[c:33]1[cH:21][cH:27][cH:24][cH:28][cH:22]1)[c:32]1[cH:19][cH:25][cH:23][cH:26][cH:20]1.[cH:1]1[cH:29][cH:39][c:13]([S:43](=[O:14])(=[O:15])[CH:31]=[C:41]2[CH:11]=[CH:36][C:42](=[N+:38]([O-:34])[O-:35])[CH:37]=[CH:12]2)[cH:40][cH:30]1>>[O:2]=[S:17](=[O:3])([N-:16][S:18](=[O:4])(=[O:5])[c:33]1[cH:21][cH:27][cH:24][cH:28][cH:22]1)[c:32]1[cH:19][cH:25][cH:23][cH:26][cH:20]1.[cH:1]1[cH:29][cH:39][c:13]([S:43](=[O:14])(=[O:15])[CH:31]([S:10][C:6]([F:7])([F:8])[F:9])[c:41]2[cH:11][cH:36][c:42]([N+:38](=[O:34])[O-:35])[cH:37][cH:12]2)[cH:40][cH:30]1", "epd": [["LP-/Pi+", [34], [38, 34]], ["Pi-/Pi+", [42, 38], [37, 42]], ["Pi-/Pi+", [12, 37], [41, 12]], ["Pi-/Sigma+", [31, 41], [31, 10]], ["Sigma-/LP+", [10, 16], [16]]]}
{"reaction_name": "Pictet–Spengler net condensation", "rsmi": "[CH3:9][C:11]([H:12])=[O:18].[H+:6].[N:1]([CH2:10][CH2:5][c:8]1[c:3]2[cH:4][cH:2][cH:7][cH:13][c:19]2[nH:17][cH:16]1)([H:14])[H:15]>>[H+:15].[H:6][O:18][H:14].[N:1]([CH2:10][CH2:5][c:8]1[c:3]2[cH:4][cH:2][cH:7][cH:13][c:19]2[nH:17][cH:16]1)=[C:11]([CH3:9])[H:12]", "epd": [["LP-/Sigma+", [1], [1, 11]], ["Pi-/LP+", [11, 18], [18]], ["LP-/Sigma+", [18], [6, 18]], ["Sigma-/LP+", [11, 18], [18]], ["LP-/Sigma+", [18], [14, 18]], ["Sigma-/LP+", [1, 14], [1]], ["LP-/Pi+", [1], [1, 11]], ["Sigma-/LP+", [1, 15], [1]]]}
{"reaction_name": "Sulfonate ester formation", "rsmi": "[O-:2][CH3:7].[cH:1]1[cH:4][cH:3][cH:8][c:6]([S:9]([Cl:5])(=[O:11])=[O:12])[c:10]1>>[Cl-:5].[cH:1]1[cH:4][cH:3][cH:8][c:6]([S:9]([O:2][CH3:7])(=[O:11])=[O:12])[c:10]1", "epd": [["LP-/Sigma+", [2], [2, 9]], ["Pi-/LP+", [11, 9], [11]], ["LP-/Pi+", [11], [11, 9]], ["Sigma-/LP+", [5, 9], [5]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[N+:10](=[N-:15])=[N-:16].[O:1]=[C:20]1[N:5]([CH3:17])[C:19](=[O:7])[N:6]([CH3:18])[C:21](=[O:2])[C:12]1=[CH:14][c:8]1[cH:22][cH:3][c:13]([O:11][CH3:9])[cH:4][cH:23]1>>[O-:1][c:20]1[n:5]([CH3:17])[c:19](=[O:7])[n:6]([CH3:18])[c:21](=[O:2])[c:12]1[CH:14]([c:8]1[cH:22][cH:3][c:13]([O:11][CH3:9])[cH:4][cH:23]1)[N-:15][N+:10]#[N:16]", "epd": [["LP-/Pi+", [16], [10, 16]], ["Pi-/Sigma+", [15, 10], [15, 14]], ["Pi-/Pi+", [14, 12], [12, 20]], ["Pi-/LP+", [20, 1], [1]]]}
{"reaction_name": "Tertiary alkyl halide solvolysis", "rsmi": "[CH3:1][C:5]([CH3:2])([CH3:3])[Br:6].[O:4]([CH3:7])[H:8]>>[Br:6][H:8].[CH3:1][C:5]([CH3:2])([CH3:3])[O:4][CH3:7]", "epd": [["Sigma-/LP+", [5, 6], [6]], ["LP-/Sigma+", [4], [4, 5]], ["LP-/Sigma+", [6], [6, 8]], ["Sigma-/LP+", [4, 8], [4]]]}
{"reaction_name": "Epoxide opening by alcohol", "rsmi": "[O-:1][CH3:2].[O:3]1[CH2:4][CH2:5]1>>[O:1]([CH3:2])[CH2:4][CH2:5][O-:3]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [3, 4], [3]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]12[c:14]([n:3][o:40][n+:39]1[O-:2])[n:13][c:11]([O:34][CH3:12])[n:7][cH:35]2.[c:4]1([P:33]([c:5]2[cH:16][cH:22][c:37]([N:9]([CH3:29])[CH3:30])[cH:23][cH:17]2)[c:6]2[cH:18][cH:24][c:38]([N:10]([CH3:31])[CH3:32])[cH:25][cH:19]2)[cH:15][cH:21][c:36]([N:8]([CH3:27])[CH3:28])[cH:26][cH:20]1>>[c:1]12[c:14]([n:3][o:40][n+:39]1[O-:2])[N:13]=[C:11]([O:34][CH3:12])[N-:7][CH:35]2[P+:33]([c:4]1[cH:15][cH:21][c:36]([N:8]([CH3:27])[CH3:28])[cH:26][cH:20]1)([c:5]1[cH:16][cH:22][c:37]([N:9]([CH3:29])[CH3:30])[cH:23][cH:17]1)[c:6]1[cH:18][cH:24][c:38]([N:10]([CH3:31])[CH3:32])[cH:25][cH:19]1", "epd": [["LP-/Sigma+", [33], [33, 35]], ["Pi-/LP+", [35, 7], [7]]]}
